US04414210
Preparation of 1,2,3,4-tetrahydro-1-hydroxy-1[1-(1,2,4-triazolyl) methyl]-naphthalene
To 3.5 g (0.0132 mole) of 1,2,3,4-tetrahydro-1-hydroxy-1-[1-(1,2,4-triazolyl)methyl]-naphthalene hydrochloride in 200 ml of water is added 2.0 g (0.025 mole) of 50% NaOH, and the mixture is stirred. The organic material is extracted 2×100 ml of ether, and the extract is washed 2×50 ml of water, dried over anhydrous magnesium sulfate, and concentrated to give 2.6 g (85.9%) of the product, mp 105°-8°.

reactant | 1,2,3,4-tetrahydro-1-hydroxy-1-[1-(1,2,4-triazolyl)methyl]-naphthalene hydrochloride | 0.0132 mole, 3.5 g | Cl.OC1(CCCC2=CC=CC=C12)CC1=NNC=N1
reactant | NaOH | 0.025 mole, 2.0 g | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 1,2,3,4-tetrahydro-1-hydroxy-1[1-(1,2,4-triazolyl) methyl]-naphthalene | 2.6 g, 85.9% | OC1(CCCC2=CC=CC=C12)CC1=NNC=N1 | C13H15N3O
